US07427632B2
3-Chloro-N-[(R)-1-phenyl-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide
Using alkylation method A, 3-chloro-N-[(R)-1-phenyl-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide (8.97 mmol) and acetone (6.6 mL, 90 mmol) afforded, after purification (SiO2: 8:2:1 hexane:EtOAc:isopropylamine), 2.2 g (54%) of the title compound.

reactant | 3-chloro-N-[(R)-1-phenyl-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide | 8.97 mmol | ClC1=CNC2=CC(=CC=C12)C(=O)N[C@@H](COCC1CCNCC1)C1=CC=CC=C1 | C23H26ClN3O2
reactant | acetone | 90 mmol, 6.6 mL | CC(=O)C | C3H6O
product | 3-Chloro-N-[(R)-1-phenyl-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide | ClC1=CNC2=CC(=CC=C12)C(=O)N[C@@H](COCC1CCN(CC1)C(C)C)C1=CC=CC=C1 | C26H32ClN3O2
